US07514470B2
N2-[4-Cyano-3-(trifluoromethyl)phenyl]-N1-(cyclopropylmethyl)-N2-ethylglycinamide
Synthesized as described in example 3 using N-[4-cyano-3-(trifluoromethyl)phenyl]-N-ethylglycine and 1-cyclopropylmethanamine: 1H NMR (400 MHz, CDCl3) δ 7.63 (d, J=8.8 Hz, 1H), 6.96 (d, J=2.6 Hz, 1H), 6.79 (dd, J=8.8, 2.8 Hz, 1H), 6.06 (bs, 1H), 3.97 (s, 2H), 3.56 (q, J=7.1 Hz, 2H), 3.13 (t, J=6.3 Hz, 2H), 1.26 (t, J=7.1 Hz, 3H), 0.87 (m, 1H), 0.45 (m, 2H), 0.14 (m, 2H).

reactant | N-[4-cyano-3-(trifluoromethyl)phenyl]-N-ethylglycine | C(#N)C1=C(C=C(C=C1)N(CC(=O)O)CC)C(F)(F)F | C12H11F3N2O2
reactant | 1-cyclopropylmethanamine | C1(CC1)CN | C4H9N
product | N2-[4-Cyano-3-(trifluoromethyl)phenyl]-N1-(cyclopropylmethyl)-N2-ethylglycinamide | C(#N)C1=C(C=C(C=C1)N(CC(=O)NCC1CC1)CC)C(F)(F)F | C16H18F3N3O
